US04766128
A solution is prepared from 150 mg of 3-(9,10-didehydro-2,3-dihydro-6-methyl-14-nitro-8α-ergolinyl)-1,1-diethylurea in 5 ml of methylene chloride; 250 mg of pyridinium dichromate, dissolved in 2 ml of methylene chloride, is added to the reaction mixture and the latter is agitated for one hour at room temperature. Then the mixture is diluted with water, extracted by shaking with methylene chloride, the organic phase is dried and evaporated. The residue is chromatographed on silica gel with methylene chloride/methanol (5%), thus obtaining 70 mg of 3-(9,10-didehydro-6-methyl-14-nitro-8α-ergolinyl)-1,1-diethylurea.

reactant | 3-(9,10-didehydro-2,3-dihydro-6-methyl-14-nitro-8α-ergolinyl)-1,1-diethylurea | 150 mg | CN1C[C@H](C=C2C=3C=CC(=C4NCC(C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H27N5O3
reactant | pyridinium dichromate | 250 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(9,10-didehydro-6-methyl-14-nitro-8α-ergolinyl)-1,1-diethylurea | 70 mg | CN1C[C@H](C=C2C=3C=CC(=C4NC=C(C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H25N5O3
